Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rash, headache 
 
Major Surgical or Invasive Procedure:
Skin biopsy ___

 
History of Present Illness:
___ with no PMHx who presents to the ED with rash and HA after 
recent trip to ___ (___).   The rash began near 
the end of her trip, pt reports developing a papular, 
erythematous rash around the left angle of her mouth and chin 
which progressed up the right side of her fact.  She noticed 
crusting over of these lesions and other similar lesions over 
upper arms and left index finger.  She denied any associated 
systemic symptoms and returned home from ___ without any 
F/C/N/V/D, HA, abd pain, joint pains or SOB.  Approximately one 
week later, pt developed HA, sweats and one episode of vomiting 
with prompted urgent care evaluation. Pt was started on Bactrim 
for possible skin infection on ___ given lesion of left index 
finger.   Pt was concerned about HA with subjective sweats and 
presented to the ED for evaluation.  She was seen by Derm and 
underwent a skin biopsy.  Parasite smear was negative, LFTs 
normal, UA notable for ketones.  Labs showed Creatinine 1.2 and 
normal lactate.  CBC notable for plts of 130.

On arrival to the floor, pt was denying any abd pain, joint 
pains, diarrhea, dysuria, sore throat, ocular pain or visual 
changes.  She reports intermittent pruritus, dec appetite and a 
subtle rash over right medial thigh. She reports going to a 
___ festival last weekend and denies any tick bites, though 
reports
many mosquito bites while in ___.  Her friend that 
traveled with her denies any similar symptoms or rashes.  Pt 
denies any unusual food exposures, no new sexual encounters and 
had a normal menses one week PTA.  Pt reports that the HA 
completely resolved after Tylenol and Benadryl given in the ED.  
I met the patient with her friend at bedside and returned to 
speak with her father (___ in ___ who arrived later in 
the evening.  He reports seeing a picture of the facial rash 
when it first developed and felt it looked c/w impetigo.   
 
Past Medical History:
None
 
Social History:
___
Family History:
father is a ___ in ___, parents healthy
 
Physical Exam:
-Vitals: tmax 101.5F, HR 97-101, BP 102/66-116/78
-General: Well appearing, pleasant young female in NAD
-HEENT: MMM, crusting, subtle papular lesions over right side of 
face and forehead, erythema over chin, mild cervical LAD
-CV: RRR, no murmur
-RESP: clear b/l, no wheeze
-GI: soft, nontender, nondistended, bowel sounds present 
-GU: no foley, left inguinal crease with ___ small erythematous 
lesions, no drainage or surrounding erythema
MSK: no joint effusion or edema, 
-Skin: 1.5cm desquamated lesion over base of left index finger 
without associated drainage or surrounding erythema. some 
healing papules in right axilla and left groin. Faint petechial 
rash on lower extremities. 
-NEURO: alert, appropriate, non toxic
 
Pertinent Results:
ADMISSION LABS
___ 02:25PM BLOOD WBC-5.9 RBC-4.30 Hgb-12.5 Hct-37.3 MCV-87 
MCH-29.1 MCHC-33.5 RDW-12.7 RDWSD-40.2 Plt ___
___ 02:25PM BLOOD Neuts-84.2* Lymphs-5.6* Monos-4.4* 
Eos-4.9 Baso-0.0 Im ___ AbsNeut-4.95 AbsLymp-0.33* 
AbsMono-0.26 AbsEos-0.29 AbsBaso-0.00*
___ 02:25PM BLOOD Glucose-101* UreaN-7 Creat-1.2* Na-136 
K-3.9 Cl-99 HCO3-20* AnGap-17
___ 02:25PM BLOOD ALT-35 AST-30 AlkPhos-99 TotBili-0.7
___ 02:25PM BLOOD Albumin-4.1 Calcium-9.1 Phos-2.7 Mg-1.9
___ 02:28PM BLOOD Lactate-1.2

DISCHARGE LABS
___ 05:48AM BLOOD WBC-2.5* RBC-4.06 Hgb-11.8 Hct-36.6 
MCV-90 MCH-29.1 MCHC-32.2 RDW-12.9 RDWSD-42.1 Plt ___
___ 05:48AM BLOOD Glucose-115* UreaN-5* Creat-0.8 Na-138 
K-4.9 Cl-108 HCO3-17* AnGap-13
___ 02:25PM BLOOD Parst S-NEG
___ 12:30PM BLOOD HIV1 VL-PND
___ 12:30PM BLOOD ANAPLASMA PHAGOCYTOPHILUM DNA, 
QUALITATIVE-PND
___ 12:30PM BLOOD DENGUE FEVER ANTIBODIES (IGG, IGM)-PND
___ 02:25PM BLOOD ARBOVIRUS ANTIBODY IGM AND IGG-PND
 
Brief Hospital Course:
___ with no significant medical history presented with headache 
and rash after recent
travel to the ___.

1. Facial and lower extremity Rash, fever, headache
-Suspect these clusters of symptoms are related most likely due 
to viral process with recent travel with tick exposure. Symptoms 
improved with acetaminophen/ibuprofen, which she can continue.  
Labs and skin biopsy pending.  ID does not feel patient needs 
continued hospitalization and is stable for discharge.  Patient 
and her father feel comfortable managing symptoms at home 
especially as he is a physician. 
-RASH: Rash on face first developed 10 days prior to admission 
and father (___) suspected impetigo.  She received Bactrim 
x3 days with improvement and no active cellulitis or apparent 
impetigo at this time; these lesions are currently excoriated 
papules with macular erythema.  Patient seems to have a 
secondary rash of a petechial morphology on her lower 
extremities and back, which seems more likely viral or 
tick-borne illness; her platelets are slightly low at 101. 
Dermatology saw patient with skin biopsy ___ awaiting 
results.  
-Fever: ID saw patient who recommended viral labs and to treat 
for tick-borne illness with doxycycline until anaplasma PCR is 
negative.  Unfortunately unable to send lyme panel due to lab 
timing.  Parasite smear and rapid malaria negative.  HIV viral 
load, dengue, RPR, arbovirus, and anaplasma pending. 
-Headache: suspect volume depletion, which could also worsen 
headache.  Given lack of meningismus, neurological deficits, or 
encephalopathy LP is not indicated.  Headache improved with 
acetaminophen. 

2. ___
-Suspect related to above processes with prerenal component in 
setting of fever and sweating.  She may also have slight 
increase in Creatinine from bactrim.  Creatinine improved with 
IV fluids and recommend continued monitoring outpatient. 

3. Leukopenia and thrombocytopenia
-Slight drop in WBC and platelets during admission, which can be 
seen with viral illness.  Recommend repeat CBC in 1 week to 
monitor. 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zovia ___ (28) (ethynodiol diac-eth estradiol) ___ mg-mcg 
oral daily 
2. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain  
2.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain 
Take with food. Do not take for more than 2 weeks.  
4.  Zovia ___ (28) (ethynodiol diac-eth estradiol) ___ mg-mcg 
oral daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever
Rash: impetigo, petechial
Leukopenia, thrombocytopenia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted with rash and fever.  You were seen by 
dermatology who performed a skin biopsy.  You were also seen by 
the infectious disease doctors who feel that this is likely a 
virus and recommended additional blood work.  

You can take Tylenol for headache and fever.  Ensure to maintain 
your hydration while having fevers and sweats. 

Please follow up the lab results with Dr. ___.  Continue 
taking doxycycline until the tick-borne labs result negative.  

It was a pleasure taking care of you.
-Your ___ team
 
Followup Instructions:
___